US08389513B2
The condensation of (R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4,6,6-trimethyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine (intermediate XI-2) and 5-(2,2,3,3-tetrafluoro-propoxy)-pyridine-2-carboxylic acid following procedure I yielded the 5-(2,2,3,3-tetrafluoro-propoxy)-pyridine-2-carboxylic acid [3-((R)-2-amino-5,5-difluoro-4,6,6-trimethyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide which, after treatment with hydrochloric acid in dioxane (4N), evaporation and trituration with diethylether, gave the title compound as an off-white solid. MS (ISP): m/z=523.3 [M+H]+.

reactant | (R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4,6,6-trimethyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | NC=1C=CC(=C(C1)[C@]1(N=C(OC(C1(F)F)(C)C)N)C)F | C13H16F3N3O
reactant | 5-(2,2,3,3-tetrafluoro-propoxy)-pyridine-2-carboxylic acid | FC(COC=1C=CC(=NC1)C(=O)O)(C(F)F)F | C9H7F4NO3
product | 5-(2,2,3,3-tetrafluoro-propoxy)-pyridine-2-carboxylic acid [3-((R)-2-amino-5,5-difluoro-4,6,6-trimethyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide | NC=1OC(C([C@@](N1)(C)C=1C=C(C=CC1F)NC(=O)C1=NC=C(C=C1)OCC(C(F)F)(F)F)(F)F)(C)C | C22H21F7N4O3
